US08026257B2
(±)-tert-Butyl 4-((1-(3-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate.
(±)-tert-Butyl 4-((1-(3-methyl-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate (94 mg, 0.15 mmol) was treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvent was concentrated to afford a crude product which was dissolved in dichloromethane (3 mL), cooled to 0° C., and treated with di-tert-butyl carbonate (63 mg, 0.29 mmol) and triethylamine (30 μL, 0.22 mmol). After 1 h, the reaction was treated with a few drops of 2 M ammonia in methanol and concentrated. The residue was dissolved in ethyl acetate, washed with water (2×), brine (2×), dried over sodium sulfate, filtered and concentrated. Flash chromatography on silica gel (15% ethyl acetate/hexanes) afforded 62 mg (83%). 1H-NMR (CDCl3, 500 MHz) δ 7.81 (s, 1H), 7.38-7.41 (m, 2H), 7.30-7.35 (m, 3H), 7.19 (m, 1H), 4.56 (q, J=6.4 Hz, 1H), 3.76 (m, 2H), 3.40 (d, J=9.2 Hz, 1H), 3.29 (d, J=8.9 Hz, 1H), 2.99-3.06 (m, 2H), 2.54 (s, 3H), 2.11-2.31 (m, 2H), 1.75-1.87 (m, 2H), 1.42 (s, 9H), 1.40 (m, 3H). Mass spec.: 518.28 (MH)+.

reactant | (±)-tert-Butyl 4-((1-(3-methyl-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.15 mmol, 94 mg | CC=1N(N=C2C(=CC(=CC12)C(F)(F)F)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C34H48F3N3O4Si
reactant | trifluoroacetic acid methylene chloride | 2 mL | FC(C(=O)O)(F)F.C(Cl)Cl
reactant | di-tert-butyl carbonate | 0.29 mmol, 63 mg | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | triethylamine | 0.22 mmol, 30 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
catalyst | ammonia | 2 M, a few drops | N | H3N
solvent | methanol | CO | CH4O
product | (±)-tert-Butyl 4-((1-(3-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | CC1=NNC2=C(C=C(C=C12)C(F)(F)F)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C28H34F3N3O3
